US04273782
1-(3-Cyanobenzyl)-3-(1-imidazolylmethyl)indole (1.0 g) was dissolved in ethanol (5 ml) and a solution of potassium hydroxide (0.5 g) in water (5 ml) was added. The mixture was heated under reflux for 6 hours and then worked up, as described in Example 11, to give 1-(3-carboxybenzyl)-3-(1-imidazolylmethyl)indole (0.70 g), m.p. 201.5°-203.5° C. (from ethanol). Found: C, 72.16; H, 5.19; N, 12.66. C20H17N3O2 requires: C, 72.49; H, 5.17; N, 12.68.

reactant | 1-(3-Cyanobenzyl)-3-(1-imidazolylmethyl)indole | 1.0 g | C(#N)C=1C=C(CN2C=C(C3=CC=CC=C23)CC=2NC=CN2)C=CC1 | C20H16N4
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 1-(3-carboxybenzyl)-3-(1-imidazolylmethyl)indole | 0.70 g | C(=O)(O)C=1C=C(CN2C=C(C3=CC=CC=C23)CC=2NC=CN2)C=CC1 | C20H17N3O2
